US04369312
In ethanol (0.6 ml) is dissolved 2,2,2-trichloroethyl 7-hydroxyimino-3-methyl-3-cephem-4-carboxylate (100 mg) and under ice-cooling, a solution of borane-pyridine complex (102 mg) in ethanol (0.7 ml) is added. Then, a 2 N-methanolic solution of hydrogen chloride (0.6 ml) is added dropwise in a nitrogen stream and the mixture is stirred at the same temperature for 3 hours. The mixture is further stirred at room temperature for an hour, after which time it is diluted with ethyl acetate, washed with water and aqueous sodium chloride in that order, dried over magnesium sulfate and concentrated under reduced pressure. The oily residue is subjected to silica gel (4.5 g) column chromatography and elution is carried out with ethyl acetate-hexane to give 2,2,2-trichloroethyl 7 β-hydroxyamino-3-methyl-3-cephem-4-carboxylate (79 mg) as an amorphous solid.

reactant | 2,2,2-trichloroethyl 7-hydroxyimino-3-methyl-3-cephem-4-carboxylate | 100 mg | ON=C1[C@@H]2N(C(=C(CS2)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C10H9Cl3N2O4S
reactant | hydrogen chloride | 0.6 ml | Cl | ClH
solvent | ethanol | 0.6 ml | C(C)O | C2H6O
solvent | ethanol | 0.7 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2,2,2-trichloroethyl 7 β-hydroxyamino-3-methyl-3-cephem-4-carboxylate | 79 mg | ON[C@H]1[C@@H]2N(C(=C(CS2)C)C(=O)OCC(Cl)(Cl)Cl)C1=O | C10H11Cl3N2O4S
